US08334301B2
1-{1-(2-chlorophenyl)-5-[(5-methylpyridin-2-yl)thio]-1H-pyrazol-3-yl}-N-methylmethanamine
To a solution of 1-(2-chlorophenyl)-5-[(5-methylpyridin-2-yl)thio]-1H-pyrazole-3-carbaldehyde (422 mg) in tetrahydrofuran (4 mL) were added 40% methylamine-methanol solution (1.3 mL) and methanol (4 mL) at 0° C. The mixture was stirred at room temperature for 16 hr, and concentrated under reduced pressure. The residue was dissolved in methanol (4 mL), sodium borohydride (60 mg) was added at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound as a yellow oil (yield 433 mg, 98%).

reactant | 1-(2-chlorophenyl)-5-[(5-methylpyridin-2-yl)thio]-1H-pyrazole-3-carbaldehyde | 422 mg | ClC1=C(C=CC=C1)N1N=C(C=C1SC1=NC=C(C=C1)C)C=O | C16H12ClN3OS
reactant | methylamine methanol | 1.3 mL | CN.CO
reactant | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-{1-(2-chlorophenyl)-5-[(5-methylpyridin-2-yl)thio]-1H-pyrazol-3-yl}-N-methylmethanamine | yield 433 mg, 98% | ClC1=C(C=CC=C1)N1N=C(C=C1SC1=NC=C(C=C1)C)CNC | C17H17ClN4S
